US09034900B2
Step 1: 2-chloro-5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridine
A mixture of 2-chloro-4-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (170 mg, 0.66 mmol), 2-bromo-1-(2,4-difluorophenoxy)-4-nitrobenzene (326 mg, 0.98 mmol), Pd2(dba)3 (30 mg, 5%), and tricyclohexylphosphine (280 mg, 10%) was suspended in 1,4-dioxane (4 mL) and aqueous 1M K3PO4 (2 mL). The mixture was heated to 70° C. using microwave irradiation (normal) for 45 min. The crude reaction mixture was filtered through a short plug of celite and the celite plug was washed with EtOAc (˜50 mL). The filtrate was washed with water (2×30 mL), brine, dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (12 g ISCO, gradient 05-75% EtOAc in hexanes) to afford the free base of the desired product, 2-chloro-5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridine as a yellow solid (144 mg, 57%). LCMS (M+H)+=381.

reactant | 2-chloro-4-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.66 mmol, 170 mg | ClC1=NC=C(C(=C1)F)B1OC(C(O1)(C)C)(C)C | C11H14BClFNO2
reactant | 2-bromo-1-(2,4-difluorophenoxy)-4-nitrobenzene | 0.98 mmol, 326 mg | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C12H6BrF2NO3
reactant | tricyclohexylphosphine | 280 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 1M, 2 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridine | 144 mg, 57% | ClC1=NC=C(C(=C1)F)C1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C17H8ClF3N2O3
